US06515003B1
A mixture of 6-bromo-5-methoxypyridine-2-carboxaldehyde (512 mg, 2.37 mmol), (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid (700 mg, 2.84 mmol) and potassium carbonate (1.31 g, 9.5 mmol) in 1,2-dimethoxyethane (22 mL) and water (2 mL) was degassed with argon. Tetrakis(triphenylphosphine) palladium(0) (550 mg, 0.48 mmol) was added and the mixture heated under reflux under argon for 24 hours. The solution was cooled to room temperature, diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was chromatographed on silica gel (Biotage hexane:EtOAc 9: 1) to give 603 mg (75% yield) of 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphth-2-yl)-5-methoxy-pyridine-2-carboxaldehyde.

reactant | 6-bromo-5-methoxypyridine-2-carboxaldehyde | 2.37 mmol, 512 mg | BrC1=C(C=CC(=N1)C=O)OC | C7H6BrNO2
reactant | (3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphthalen-2-yl)boronic acid | 2.84 mmol, 700 mg | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)B(O)O | C15H23BO2
reactant | potassium carbonate | 9.5 mmol, 1.31 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1,2-dimethoxyethane | 22 mL | COCCOC | C4H10O2
solvent | water | 2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tetrakis(triphenylphosphine) palladium(0) | 0.48 mmol, 550 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 6-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydronaphth-2-yl)-5-methoxy-pyridine-2-carboxaldehyde | 603 mg, 75% yield | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)C1=C(C=CC(=N1)C=O)OC | C22H27NO2
